US05939398
(3β,5α,11β,12β,25R)-23-bromo-11,12-epoxyspirostan-3-ol:
The following procedure is a variation of that described in Helv. Chim. Act., 1953, 36, 1241. (3β,5α,11α,12β,25R)-11,23-dibromospirostan-3,12-diol (18.08 g) was dissolved in pyridine (500 mL) at room temperature and treated with silver oxide (70.0 g). The resulting mixture was stirred in the dark for 71 hours. The mixture was filtered and the solid washed with ether and then chloroform. These washes were combined with the filtrate and concentrated. The resulting solid was purified by flash chromatography (1:1 hexane:ethyl acetate) to give 12.2 g of a 1:1 mixture of the title compound and (3β,5α,25R)-23-bromospirostan-3-ol-12-one. Further chromatography (7:3 hexane:ethyl acetate) provides pure title compound. (3β,5α,11β,12α,25R)-23-bromo-12-(trichloroacetoxy)spirostan-3,11 -diol: Using the procedure described in J. Chem. Soc., 1956, 4330, (3β,5α, 11β,12β,25R)-23-bromo-11,12-epoxyspirostan-3-ol was treated with trichloroacetic acid in toluene at room temperature for 3 days to give the title compound. (3β,5α, 11β,12α,25R)-23-bromo-spirostan-3,11,12-triol: Using the procedure described in J. Chem. Soc., 1956, 4330, (3β,5α,11β,12α,25R)-23-bromo-12-(trichloroacetoxy)spirostan-3,11-diol was saponified with sodium hydroxide in water and ethanol to give the title compound.

reactant | (3β,5α, 11β,12α,25R)-23-bromo-spirostan-3,11,12-triol | BrC1[C@]2(O[C@@H]3[C@H]([C@@H]2C)[C@]2([C@H]([C@@H]([C@@H]4[C@]5(CC[C@@H](C[C@@H]5CC[C@H]4[C@@H]2C3)O)C)O)O)C)OC[C@@H](C1)C | C27H43BrO5
reactant | (3β,5α,11β,12α,25R)-23-bromo-12-(trichloroacetoxy)spirostan-3,11-diol | BrC1[C@]2(O[C@@H]3[C@H]([C@@H]2C)[C@]2([C@H]([C@@H]([C@@H]4[C@]5(CC[C@@H](C[C@@H]5CC[C@H]4[C@@H]2C3)O)C)O)OC(C(Cl)(Cl)Cl)=O)C)OC[C@@H](C1)C | C29H42BrCl3O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | (3β,5α,11β,12β,25R)-23-bromo-11,12-epoxyspirostan-3-ol | BrC1[C@]2(O[C@@H]3[C@H]([C@@H]2C)[C@]2([C@H]4[C@@H]([C@@H]5[C@]6(CC[C@@H](C[C@@H]6CC[C@H]5[C@@H]2C3)O)C)O4)C)OC[C@@H](C1)C | C27H41BrO4
